US04565817
20.2 g. of theophylline-sodium, 300 cm3 isopropyl alcohol and 13.2 g. of 3-chloromethyl-5-methyl-1,2,4-oxadiazole are heated under stirring for 10 hours. After processing 20.5 g. (74.2% yield) of 7-(5-methyl-1,2,4-oxadiazol-3-yl)-methyl-theophylline are obtained. M.p.: 134°-135° C.

reactant | theophylline sodium | N1(C)C(=O)N(C)C=2N=CNC2C1=O.[Na]
reactant | 3-chloromethyl-5-methyl-1,2,4-oxadiazole | ClCC1=NOC(=N1)C | C4H5ClN2O
reactant | isopropyl alcohol | 300 cm3 | C(C)(C)O | C3H8O
product | 7-(5-methyl-1,2,4-oxadiazol-3-yl)-methyl-theophylline | 74.2% yield | CC1=NC(=NO1)N1C=NC=2N(C(N(CC)C(C12)=O)=O)C | C11H12N6O3
